US08957214B2
2-aminopyridine in an amount of 400 mg (4.26 mmol) was dissolved in 10 mL of anhydrous dichloromethane, following which 322 μL (490 mg, 5.11 mmol) of difluoroacetic acid, 982 mg (5.10 mmol) of EDC-HCl and 622 mg (5.11 mmol) of DMAP were added, and the mixture was stirred at room temperature for 61 hours. Following solution completion, the reaction mixture was diluted with dichloromethane, washed once with water and twice with 1% aqueous HCl, then dried over anhydrous magnesium sulfate, and concentrated under reduced pressure, giving 102 mg of 2,2-difluoro-N-(pyridin-2(1H)-ylidene)acetamide (yield, 14%).

reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
reactant | difluoroacetic acid | 5.11 mmol, 322 μL, 490 mg | FC(C(=O)O)F | C2H2F2O2
reactant | EDC-HCl | 5.10 mmol, 982 mg | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | DMAP | 5.11 mmol, 622 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2,2-difluoro-N-(pyridin-2(1H)-ylidene)acetamide | 102 mg, 14% | FC(C(=O)N=C1NC=CC=C1)F | C7H6F2N2O
